US09328099B2
Step B. [1-(3,4-Dimethoxyphenyl)piperidin-4-ylidene]acetonitrile
In a sealed tube, 4-(cyanomethylidene)piperidinium chloride (16 mg, 0.10 mmol), Pd2(dba)3 (14 mg, 0.015 mmol), X-Phos (20 mg, 0.020 mmol), 4-bromo-1,2-dimethoxybenzene (33 mg, 0.15 mmol), and Cs2CO3 (98 mg, 0.30 mmol) were suspended in t-BuOH (0.5 mL). The reaction mixture was purged with argon for 5 minutes, the reaction flask was capped, and heated to 90° C. for 12 hours. The reaction was then cooled to ambient temperature and diluted with DMF:MeCN (1.0 mL, 50:50). To this mixture, Silica Supported-DMT (0.50 mmol, 0.57 mmol/g) followed by Silica Supported-Isocyanate (0.15 mmol, 1.33 mmol/g) was added. The resulting mixture was then shaken at 50° C. for 4 hours. The mixture was then passed through a nylon syringe filter (0.45 μm), and the filtrate was concentrated in vacuo to afford the title compound. The crude residue was used without further purification.

reactant | 4-(cyanomethylidene)piperidinium chloride | 0.10 mmol, 16 mg | [Cl-].C(#N)C=C1CC[NH2+]CC1
reactant | X-Phos | 0.020 mmol, 20 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 4-bromo-1,2-dimethoxybenzene | 0.15 mmol, 33 mg | BrC1=CC(=C(C=C1)OC)OC | C8H9BrO2
reactant | Cs2CO3 | 0.30 mmol, 98 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Isocyanate | 0.15 mmol | [N-]=C=O
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
catalyst | Pd2(dba)3 | 0.015 mmol, 14 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [1-(3,4-Dimethoxyphenyl)piperidin-4-ylidene]acetonitrile | COC=1C=C(C=CC1OC)N1CCC(CC1)=CC#N | C15H18N2O2
